US08389539B2
2-(4-Cyclopropyl-phenyl)-8-(3-phenyl-propyl)-2,8-diaza-spiro[4.5]decan-1-one
A mixture of 20 mg (0.074 mmol) 2-(4-Cyclopropyl-phenyl)-2,8-diaza-spiro[4.5]decan-1-one, 42 uL acetic acid, 44 mg (0.148 mmol) sodium triacetyoxyborohydride and excess 3-phenyl-propionaldehyde in 2 mL THF was stirred for at room temperature over night. Water was added, the mixture was extracted with ethyl acetate and the combined organic layers were evaporated to dryness. The residue was taken up in methanol and subjected to purification by preparative HPLC on reversed phase eluting with a gradient formed from acetonitrile, water and NEt3. The product containing fractions were evaporated to yield 7.1 mg (25%) of the title compound. MS m/e: 389.4 [M+H]+.

reactant | 2-(4-Cyclopropyl-phenyl)-2,8-diaza-spiro[4.5]decan-1-one | 0.074 mmol, 20 mg | C1(CC1)C1=CC=C(C=C1)N1C(C2(CC1)CCNCC2)=O | C17H22N2O
reactant | acetic acid | 42 uL | C(C)(=O)O | C2H4O2
reactant | sodium | 0.148 mmol, 44 mg | [Na] | Na
reactant | 3-phenyl-propionaldehyde | C1(=CC=CC=C1)CCC=O | C9H10O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | Water | O | H2O
product | 2-(4-Cyclopropyl-phenyl)-8-(3-phenyl-propyl)-2,8-diaza-spiro[4.5]decan-1-one | 7.1 mg, 25% | C1(CC1)C1=CC=C(C=C1)N1C(C2(CC1)CCN(CC2)CCCC2=CC=CC=C2)=O | C26H32N2O
